US06051712
A mixture of 569 mg of crude tert-butyl (3RS,4RS)-4-[4-(2-methylsulphonyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate and 650 mg of sodium azide in 20 ml of dimethyl sulphoxide was stirred at 80° C. for 3.5 hours. Subsequently, this reaction solution was poured into 50 ml of an ice/water mixture and extracted three times with ethyl acetate. The organic phases were washed with water, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The yellow oil (670 mg) was separated on silica gel using a 9:1 mixture of hexane and ethyl acetate as the eluent. There were obtained 271 mg (54% of theory over both steps) of tert-butyl (3RS,4RS)-4-[4-(2-azido-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless solid; MS: 503 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-methylsulphonyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 569 mg | CS(=O)(=O)OCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H37NO7S
reactant | sodium azide | 650 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | tert-butyl (3RS,4RS)-4-[4-(2-azido-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | N(=[N+]=[N-])CCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C29H34N4O4
